US04158013
B. N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(3-butyn-1-yl)guanidine
The general procedure of Example 1C is repeated except that the N-cyano-N'-propargyl-N"-(2-mercaptoethyl)guanidine utilized therein is replaced by an equimolar amount of N-cyano-N'-(3-butyn-1-yl)-N"-(2-mercaptoethyl)guanidine, and the title product is thereby produced.

reactant | N-cyano-N'-propargyl-N"-(2-mercaptoethyl)guanidine | C(#N)NC(=NCCS)NCC#C | C7H10N4S
reactant | N-cyano-N'-(3-butyn-1-yl)-N"-(2-mercaptoethyl)guanidine | C(#N)NC(=NCCS)NCCC#C | C8H12N4S
product | N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(3-butyn-1-yl)guanidine | C(#N)NC(=NCCC#C)NCCSCC1=C(N=CN1)C | C13H18N6S
